US08470857B2
Step 6: Preparation of 4-(2-(2-(1H-tetrazol-5-yl)ethyl)-5-(4-methoxyphenyl)-1H-pyrrol-1-yl)-3-methylbenzamide (2H, R2=4-methoxyphenyl).
4-(2-(2-(1H-tetrazol-5-yl)ethyl)-5-(4-methoxyphenyl)-1H-pyrrol-1-yl)-3-methylbenzoic acid (130 mg, 0.332 mmol) was dissolved in anhydrous THF (3 mL). CDI (68 mg, 0.419 mmol) was added in three portions at room temperature and stirred at this temperature for 1 h. The resultant yellow solution was added dropwise to 25% ammonium hydrate (3 mL) at 0° C. After the addition was complete, the mixture was allowed to warm to room temperature and stirred for 2 h. The mixture was evaporated in vacuo and the residue was purified by prep-HPLC to afford 2H, R2=4-methoxyphenyl as a yellow solid (7 mg, 5.4%).

reactant | 4-(2-(2-(1H-tetrazol-5-yl)ethyl)-5-(4-methoxyphenyl)-1H-pyrrol-1-yl)-3-methylbenzoic acid | 0.332 mmol, 130 mg | N1N=NN=C1CCC=1N(C(=CC1)C1=CC=C(C=C1)OC)C1=C(C=C(C(=O)O)C=C1)C | C22H21N5O3
reactant | CDI | 0.419 mmol, 68 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium hydrate | 3 mL | O.[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(2-(2-(1H-tetrazol-5-yl)ethyl)-5-(4-methoxyphenyl)-1H-pyrrol-1-yl)-3-methylbenzamide | N1N=NN=C1CCC=1N(C(=CC1)C1=CC=C(C=C1)OC)C1=C(C=C(C(=O)N)C=C1)C | C22H22N6O2
